US06570039B2
Tert-butoxycarbonyl-L-phenylalanine (20.00 g), paraformaldehyde (6.04 g) and pyridinium p-toluenesulfonate (0.95 g) were added to toluene (200 ml), and they were stirred under heating and reflux for 30 minutes. The reaction mixture was cooled to room temperature and washed with a saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The obtained toluene layer was dried over anhydrous sodium sulfate and then sodium sulfate was removed. The solvent was evaporated under reduced pressure. The concentrated solution was cooled to room temperature to crystallize the product. The crystals were separated and dried to obtain intended (4S)-N-tert-butoxycarbonyl-4-phenylmethyloxazolidin-5-one (15.10 g) (yield: 72%).

reactant | Tert-butoxycarbonyl-L-phenylalanine | 20.00 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | paraformaldehyde | 6.04 g | C=O | CH2O
catalyst | pyridinium p-toluenesulfonate | 0.95 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (4S)-N-tert-butoxycarbonyl-4-phenylmethyloxazolidin-5-one | 15.10 g, yield: 72% | C(C)(C)(C)OC(=O)N1COC([C@@H]1CC1=CC=CC=C1)=O | C15H19NO4
